US07094801B2
An alternative procedure: 5-bromo-2,4-dimethoxybenzaldehyde (20 g), benzo[b]thiophene-2-boronic acid (16 g) and THF (200 mL) were sequentially charged into a clean reaction vessel fitted with a reflux condenser, mechanical stirrer and nitrogen inlet adapter. Nitrogen was bubbled into the resulting solution for 20 min followed by the sequential addition of KF (10 g), and Pd(tBu3P)2 (0.417 g). The solution was immediately heated to 60° C. and aged for 1.5 h. (Note: The HPLC assay at this point routinely indicated complete consumption of 5-bromo-2,4-dimethoxybenzaldehyde, <0.5 area % of benzo[b]thiophene-2-boronic acid along with 0.5 area % of an unknown (0.55 RRT). These impurities are removed during crystallization.) Upon completion, as determined by HPLC, the reaction was diluted with H2O (200 mL) and transferred to a separatory funnel containing EtOAc (200 mL) and H2O (200 mL). The layers were cut and the aqueous layer was extracted with EtOAc (100 mL). The combined organic cuts were filtered through a pre-washed pad of solka floc (5 g). The pad of solka floc and spent catalyst were washed with fresh EtOAc (200 mL) and this wash combined with the batch. The resultant filtrate was batch concentrated and solvent switched to 33 wt % 5-(benzo[b]thien-2-yl)-2,4-dimethoxybenzaldehyde in THF in preparation for crystallization. (Note: The internal temperature during batch concentration should be kept above 45° C. to prevent premature crystallization.) The resulting THF solution of 5-(benzo[b]thien-2-yl)-2,4-dimethoxybenzaldehyde was then charged with heptane (20 mL) and slowly cooled to ambient temperature. Crystallization was then completed with the slow addition of heptane (175 mL) and cooling to 4° C. After aging for 1 h, the batch was filtered and then dried on the filter funnel under a stream of N2. The semi-wet cake was then transferred to clean trays and dried to a constant weight in the vacuum oven (40° C., 20 inHg) affording 23.74 g (97% yield) of desired 5-(benzo[b]thien-2-yl)-2,4-dimethoxybenzaldehyde as a light orange crystalline solid, m.p. 134–136° C. HPLC assay of this solid indicated >99.9 LCAP. 1H-NMR identical as above.

reactant | 5-bromo-2,4-dimethoxybenzaldehyde | 20 g | BrC=1C(=CC(=C(C=O)C1)OC)OC | C9H9BrO3
reactant | benzo[b]thiophene-2-boronic acid | 16 g | S1C2=C(C=C1B(O)O)C=CC=C2 | C8H7BO2S
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 5-(benzo[b]thien-2-yl)-2,4-dimethoxybenzaldehyde | 23.74 g, 97% yield | S1C2=C(C=C1C=1C(=CC(=C(C=O)C1)OC)OC)C=CC=C2 | C17H14O3S
